US04277498
A solution of sodium azide (6.7 g, 103 m mol) in water (56 ml) and methanol(104 ml) was treated with 2-chloro-N-(1,1-dimethylhexyl)acetamide (16.5 g, 80 m mol) and the mixture was refluxed for 5 hours. After cooling, the mixture was extracted with 40-60 petrol (3×200 ml), the extracts were dried over magnesium sulphate and evaporated under reduced pressure to give crude 2-azido-N-(1,1-dimethylhexyl)acetamide as a pale yellow oil.This oil was dissolved in methanol (200 ml) and hydrogenated over 10% palladium on charcoal (3.2 g) at atmospheric pressure and room temperaturefor 24 hours. The mixture was filtered and the filtrate evaporated to give a crude oil (13.6 g) which was distilled to give 2-amino-N-(1,1-dimethylhexyl)acetamide as a colourless oil, b.p. 88°-90° C. at 0.05 mm Hg.

reactant | sodium azide | 6.7 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-chloro-N-(1,1-dimethylhexyl)acetamide | 16.5 g | ClCC(=O)NC(CCCCC)(C)C | C10H20ClNO
solvent | water | 56 ml | O | H2O
solvent | methanol | 104 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on charcoal | 3.2 g | [Pd] | Pd
product | 2-amino-N-(1,1-dimethylhexyl)acetamide | NCC(=O)NC(CCCCC)(C)C | C10H22N2O
